.include "parasitic_res_po.spice"
.lib "sky130.lib.spice" tt
.temp 27
Vbvdd bvdd 0 DC 7.0
XM1  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM2  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM3  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM4  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM5  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM6  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM7  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM8  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM9  pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
XM10 pvdd gi bvdd bvdd sky130_fd_pr__pfet_g5v0d10v5 w=100e-6 l=0.5e-6
.include "design.cir"
Xlim gi bvdd pvdd 0 flag current_limiter
Vg gd 0 7.0
Rg gd gi 10k
Vpvdd pvdd 0 5.0
.option reltol=1e-4 gmin=1e-12
.control
dc Vg 7 0 -0.05
let il = i(Vpvdd)*1000
let mx = vecmax(il)
echo "tt_27C_mA: $&mx"
quit
.endc
.end
